US09290517B2
Step C: (3R,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diamine
A mixture of (3R,3aR,6S,6aR)-3,6-diazidohexahydrofuro[3,2-b]furan (2.5 g, 12.74 mmol) and 5% palladium on active carbon (0.25 g) in methanol (300 mL) was hydrogenated under 40 psi in an autoclave overnight. The catalyst was removed by filtration and the solvent was evaporated to give the desired product, which was used in the next step without further purification.

reactant | (3R,3aR,6S,6aR)-3,6-diazidohexahydrofuro[3,2-b]furan | 12.74 mmol, 2.5 g | N(=[N+]=[N-])[C@H]1[C@@H]2[C@H](OC1)[C@H](CO2)N=[N+]=[N-] | C6H8N6O2
solvent | methanol | 300 mL | CO | CH4O
catalyst | palladium | [Pd] | Pd
product | (3R,3aR,6S,6aR)-hexahydrofuro[3,2-b]furan-3,6-diamine | O1[C@H]2[C@@H]([C@@H](C1)N)OC[C@@H]2N | C6H12N2O2
